US08686004B2
Ethyl 4-[2-(5-fluoropyridin-3-yl)-4-methyl-1,3-thiazol-5-yl]-2,4-dioxobutanoate (6.9 g, 20.5 mmol) and methylhydrazine (0.65 g, 20.5 mmol) were heated in ethanol (250 ml) under reflux for 2 h. The product formed was filtered off with suction and the solvent of the filtrate was removed under reduced pressure. The residue was chromatographed on silica gel (cyclohexane/ethyl acetate eluent). This gave a total of 1.24 g (17% of theory) of ethyl 3-[2-(5-fluoropyridin-3-yl)-4-methyl-1,3-thiazol-5-yl]-1-methyl-1H-pyrazole-5-carboxylate. As a by-product, 4.8 g (67% of theory) of ethyl 5-[2-(5-fluoropyridin-3-yl)-4-methyl-1,3-thiazol-5-yl]-1-methyl-1H-pyrazole-3-carboxylate were obtained.

reactant | Ethyl 4-[2-(5-fluoropyridin-3-yl)-4-methyl-1,3-thiazol-5-yl]-2,4-dioxobutanoate | 20.5 mmol, 6.9 g | FC=1C=C(C=NC1)C=1SC(=C(N1)C)C(CC(C(=O)OCC)=O)=O | C15H13FN2O4S
reactant | methylhydrazine | 20.5 mmol, 0.65 g | CNN | CH6N2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | ethyl 3-[2-(5-fluoropyridin-3-yl)-4-methyl-1,3-thiazol-5-yl]-1-methyl-1H-pyrazole-5-carboxylate | 1.24 g, 17% | FC=1C=C(C=NC1)C=1SC(=C(N1)C)C1=NN(C(=C1)C(=O)OCC)C | C16H15FN4O2S
